US04299769
As described for Example 1, 0.3 mole of 2-chlorothiophene is reacted with succinic anhydride to give 4-(5-chloro-2-thienyl)-4-ketobutyric acid (74%), m.p. 121°-123° C. The preceding compound is coupled to L-proline to give 1-[3-(5-chloro-2-thenoyl)propionyl]-L-proline (94%) as crystals, m.p. 131°-133° C. The above compound is reacted with bromine in acetic acid to give 1-[3-bromo-3-(5-chloro-2-thenoyl)-propionyl]-L-proline as a glass. As for Example 1, reaction of the preceding compound with sodium thioacetate in ethanol gives the desired product (84%) as a glass.

reactant | 2-chlorothiophene | 0.3 mole | ClC=1SC=CC1 | C4H3ClS
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | 4-(5-chloro-2-thienyl)-4-ketobutyric acid | 74% | ClC1=CC=C(S1)C(CCC(=O)O)=O | C8H7ClO3S
